### PR TITLE
[Merged by Bors] - feat(NumberTheory): use `IsApply` for `ModularForm` etc

### PR DESCRIPTION
**Pull request by mcdoll**
We use `IsApply` classes for `SlashInvariantForm`, `ModularForm` and `CuspForm` at the same time to avoid temporary name clashes and since they are not used as widely as `LinearMap` and `ContinuousLinearMap` for example.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/QExpansion.lean [hunk 1]
```diff
@@ -350,6 +350,7 @@ lemma EisensteinSeries.E_qExpansion_coeff_zero {k : ℕ} (hk : 3 ≤ k) (hk2 : E
 
 /-- Normalised Eisenstein series of even weight `k ≥ 3` are non-zero. -/
 theorem EisensteinSeries.E_ne_zero {k : ℕ} (hk : 3 ≤ k) (hk2 : Even k) : E hk ≠ 0 :=
-  fun h ↦ one_ne_zero <| (E_qExpansion_coeff_zero hk hk2).symm.trans (by simp [h, qExpansion_zero])
+  fun h ↦ one_ne_zero <| (E_qExpansion_coeff_zero hk hk2).symm.trans
+    (by simp [h, FunLike.coe_zero, qExpansion_zero])
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/QExpansion.lean]: This seems very slightly, but nonetheless strictly, worse than what we had before. Is there a particular reason why `FunLike.coe_one` and `FunLike.coe_zero` are not tagged `@[simp]`?

File: Mathlib/NumberTheory/ModularForms/Basic.lean [hunk 2]
```diff
@@ -198,34 +198,31 @@ variable {Γ : Subgroup (GL (Fin 2) ℝ)} {k : ℤ}
 instance add : Add (ModularForm Γ k) where add f g :=
   { toSlashInvariantForm := f + g
     holo' := f.holo'.add g.holo'
-    bdd_at_cusps' hc := by simpa using (f.bdd_at_cusps' hc).add (g.bdd_at_cusps' hc) }
+    bdd_at_cusps' hc := by
+      simpa [FunLike.coe_add] using (f.bdd_at_cusps' hc).add (g.bdd_at_cusps' hc) }
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/Basic.lean]: Ditto here: `FunLike.coe_add` is apparently not simp.

File: Mathlib/NumberTheory/ModularForms/Basic.lean [hunk 3]
```diff
@@ -247,19 +244,18 @@ local instance : IsScalarTower α ℂ ℂ where
 instance instSMulℝ : SMul α (ModularForm Γ k) where
   smul c f :=
   { toSlashInvariantForm := c • f.1
-    holo' := by simpa using f.holo'.const_smul (c • (1 : ℂ))
-    bdd_at_cusps' := fun hc g hg ↦ by
+    holo' := by simpa [FunLike.coe_smul] using f.holo'.const_smul (c • (1 : ℂ))
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/Basic.lean]: And here.

File: Mathlib/NumberTheory/ModularForms/Basic.lean [hunk 4]
```diff
@@ -407,28 +393,27 @@ instance hasAdd : Add (CuspForm Γ k) :=
   ⟨fun f g =>
     { toSlashInvariantForm := f + g
       holo' := f.holo'.add g.holo'
-      zero_at_cusps' := fun A => by simpa using (f.zero_at_cusps' A).add (g.zero_at_cusps' A) }⟩
+      zero_at_cusps' A := by simpa [FunLike.coe_add] using
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/Basic.lean]: ... and here

File: Mathlib/NumberTheory/ModularForms/Basic.lean [hunk 5]
```diff
@@ -407,28 +393,27 @@ instance hasAdd : Add (CuspForm Γ k) :=
...
-  rfl
+@[deprecated (since := "2026-07-10")] alias coe_add := FunLike.coe_add
+
+@[deprecated (since := "2026-07-10")] protected alias add_apply := add_apply
 
 instance instZero : Zero (CuspForm Γ k) :=
   ⟨ { toSlashInvariantForm := 0
       holo' := fun _ => mdifferentiableAt_const
-      zero_at_cusps' hc g hg := by simpa using! Filter.zero_zeroAtFilter _ } ⟩
+      zero_at_cusps' hc g hg := by simpa [FunLike.coe_zero] using! Filter.zero_zeroAtFilter _ } ⟩
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/Basic.lean]: ... and here

File: Mathlib/NumberTheory/ModularForms/Basic.lean [hunk 6]
```diff
@@ -440,19 +425,18 @@ local instance : IsScalarTower α ℂ ℂ where
 
 instance instSMul : SMul α (CuspForm Γ k) where smul c f :=
   { toSlashInvariantForm := c • f.1
-    holo' := by simpa using f.holo'.const_smul (c • (1 : ℂ))
+    holo' := by simpa [FunLike.coe_smul] using f.holo'.const_smul (c • (1 : ℂ))
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/Basic.lean]: ... and here

**Review by loefflerd — COMMENTED** [review]
This is definitely an improvement – especially since we have this slightly messy thing that modular forms spaces have smul by two different scalar types under differing hypotheses, and I am very happy to see that the instance system manages to sweep all that under the carpet. 

The only thing that puzzles me is that some basic lemmas using these IsApply typeclasses, like `FunLike.coe_one`, are not currently simp-tagged, and I wonder if there is a specific reason for this – it seems a pity to burden downsteam code with lots of explicitly named simp lemmas.

**Comment by loefflerd** [comment]
I opened #42027 to try out the effect of simp-tagging the lemmas in `Mathlib.Data.FunLike.IsApply`.

**Comment by loefflerd** [comment]
LGTM thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/3b435749493effb5f0936df34f12efccc38f0570?reference=671e5520a2f31a6e2a7278f44fd51e07d922d523) for 3b435749493effb5f0936df34f12efccc38f0570 against 671e5520a2f31a6e2a7278f44fd51e07d922d523 are in. No significant results found. @riccardobrasca

- 🟥 `build//instructions`: **+157.7G** (**+0.11%**)

**Small changes (2🟥)**

- 🟥 `build/module/Mathlib.NumberTheory.ModularForms.Basic//instructions`: **+2.4G** (**+7.43%**)
- *and 1 hidden*

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by riccardobrasca** [comment]
You need a `merge master` and a fix.

bors d+

**Comment by mcdoll** [comment]
bors merge
